US04055595
A suspension of the 6-chloro-2-naphthoic acid (41.2 g.) in a mixture of methanol (500 ml.) and concentrated sulphuric acid (50 ml.) is heated under reflux for 3 hours, stored at ambient temperature for 3 days, then warmed until a solution is obtained. Water (2 l.) and ether (1 l.) are added. The ethereal layer is separated, and is washed in turn with water, N-aqueous sodium hydroxide, and water, dried with magnesium sulphate, and evaporated to give methyl 6-chloro-2-naphthoate (38.8 g.) m.p. 97°-98° C., which may be further purified by recrystallisation from light petroleum (b.p. 40°-60° C.) to give material of m.p. 100°-101° C.

reactant | 6-chloro-2-naphthoic acid | 41.2 g | ClC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H7ClO2
reactant | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | Water | 2 l | O | H2O
reactant | ether | 1 l | CCOCC | C4H10O
solvent | methanol | 500 ml | CO | CH4O
product | methyl 6-chloro-2-naphthoate | 38.8 g | ClC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H9ClO2
